US08071592B2
(c) 1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-(methyloxy)-2(1H)-quinolinone
To a solution of phenylmethyl [((3S,4S)-4-hydroxy-1-{2-[7-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-3-pyrrolidinyl)methyl]carbamate (1 g, 2.21 mmol) was added 20% Pd(OH)2/C, degassed and placed under 1 atm of H2 for 2 h. The reaction mixture was filtered through Celite and concentrated to obtain the title compound as a yellow oil (622 mg, 89%).

reactant | phenylmethyl [((3S,4S)-4-hydroxy-1-{2-[7-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-3-pyrrolidinyl)methyl]carbamate | 2.21 mmol, 1 g | O[C@H]1[C@H](CN(C1)CCN1C(C=CC2=CC=C(C=C12)OC)=O)CNC(OCC1=CC=CC=C1)=O | C25H29N3O5
catalyst | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
product | 1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-(methyloxy)-2(1H)-quinolinone | 622 mg, 89% | NC[C@H]1CN(C[C@H]1O)CCN1C(C=CC2=CC=C(C=C12)OC)=O | C17H23N3O3
